** sch_path: /foss/designs/spike_130/designs/tb_xin_neuron_v1/prueba_rewNeuron_potenciacion.sch
**.subckt prueba_rewNeuron_potenciacion
V4 vdd GND 1.8
V5 vtrh GND 0.6
V6 vref GND 1
V7 vss GND -1.8
V1 v_rew GND 0
Vmeas1 net1 vin_pos 0
.save i(vmeas1)
I2 GND vin_pre pulse(0 1u 1u 1n 1n 1 2)
Vmeas2 net2 vin_pos2 0
.save i(vmeas2)
V2 v_rew3 GND 1.8
I1 GND vin_pre2 pulse(0 1u 1u 1n 1n 1 2)
V3 v_rew2 GND 0
V8 v_rew4 GND 0
Vmeas3 net3 vin_pos3 0
.save i(vmeas3)
V9 v_rew5 GND 0
I3 GND vin_pre3 pulse(0 1u 1u 1n 1n 1 2)
V10 v_rew6 GND 1.8
Vmeas4 net4 vin_pos4 0
.save i(vmeas4)
V11 v_rew7 GND 1.8
I4 GND vin_pre4 pulse(0 1u 1u 1n 1n 1 2)
V12 v_rew8 GND 1.8
x9 vdd vss vout_pre vin_pre vtrh vref v_rew neuron_xin_v1
x1 vdd vss vout_pos vin_pos vtrh vref v_rew2 neuron_xin_v1
x2 vdd vss vout_pre2 vin_pre2 vtrh vref v_rew3 neuron_xin_v1
x3 vdd vss vout_pos2 vin_pos2 vtrh vref v_rew4 neuron_xin_v1
x4 vdd vss vout_pre3 vin_pre3 vtrh vref v_rew5 neuron_xin_v1
x5 vdd vss vout_pos3 vin_pos3 vtrh vref v_rew6 neuron_xin_v1
x6 vdd vss vout_pre4 vin_pre4 vtrh vref v_rew7 neuron_xin_v1
x7 vdd vss vout_pos4 vin_pos4 vtrh vref v_rew8 neuron_xin_v1
X8 vout_pre net1 rram_cell
X10 vout_pre2 net2 rram_cell
X11 vout_pre3 net3 rram_cell
X12 vout_pre4 net4 rram_cell
**** begin user architecture code


.control
 set num_threads=11
 tran .1n 10u uic
 write prueba_rewNeuron_potenciacion.raw
.endc
.save all


.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt

.subckt rram_cell BE TE
N1 BE TE rram_model
.ends rram_cell

.model rram_model rram gap_initial=0.85
*0.1-1.7

.control
pre_osdi /foss/designs/spike_130/designs/memristors/rram_v1/rram.osdi
.endc

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/spike_130/designs/core_xin_neuron_v1/neuron_xin_v1.sym # of pins=7
** sym_path: /foss/designs/spike_130/designs/core_xin_neuron_v1/neuron_xin_v1.sym
** sch_path: /foss/designs/spike_130/designs/core_xin_neuron_v1/neuron_xin_v1.sch
.subckt neuron_xin_v1 vdd vss vout vin vtrh vref reward
*.iopin vdd
*.ipin vin
*.opin vout
*.iopin vss
*.ipin vtrh
*.ipin vref
*.ipin reward
x11 vref vdd phi_fire net1 vmem conmutator
x12 vmem vdd phi_fire vout vref conmutator
x13 GND net4 phi_fire vicom_p vmem conmutator
x14 phi_fire vin vmem vdd switch
x15 vdd vtrh vo_com vicom_p GND ota_1_stage
XC4 vin net1 sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=200 m=200
XM3 vmem vdd net3 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 reward vss vdd vref vo_com vspike phi_fire pulseReward
x3 vdd vin vmem vspike GND ota_2_stage
XM1 net3 vdd net2 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net2 vdd vin GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sch
.subckt conmutator in2 vdd cntrl out in1
*.ipin cntrl
*.ipin in2
*.ipin in1
*.iopin vdd
*.opin out
XM2 out cntrl in2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out net1 in2 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 out net1 in1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out cntrl in1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 vdd cntrl net1 not
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_switch/switch.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_switch/switch.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_switch/switch.sch
.subckt switch cntrl in out vdd
*.ipin cntrl
*.ipin in
*.iopin vdd
*.opin out
XM3 out cntrl in GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out net1 in vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 vdd cntrl net1 not
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sch
.subckt ota_1_stage vdd vn vout vp vss
*.iopin vdd
*.ipin vp
*.opin vout
*.ipin vn
*.iopin vss
XM1 net1 vp net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vout net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 vout vn net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net3 net2 vss GND sky130_fd_pr__nfet_01v8 L=0.45 W=5.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net2 net2 vss GND sky130_fd_pr__nfet_01v8 L=0.45 W=5.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
I4 vdd net2 11u
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_pulseReward/pulseReward.sym # of pins=7
** sym_path: /foss/designs/spike_130/designs/subcells/core_pulseReward/pulseReward.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_pulseReward/pulseReward.sch
.subckt pulseReward reward vss vdd vref vin vspike phi_fire
*.opin vspike
*.iopin vdd
*.opin phi_fire
*.ipin vin
*.ipin vref
*.iopin vss
*.ipin reward
x19 vdd phi1 vin net2 net1 monostable
x21 vdd phi1 phi2 phi_int nor
x22 vdd phi_int phi_fire not
V6 vspike_down GND 0.5
V7 vspike_up GND 1.5
XC2 net1 net2 sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=100 m=100
XC4 GND vrefrac sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=10 m=10
XM7 vrefrac vdd net5 GND sky130_fd_pr__nfet_01v8 L=10 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net6 vdd GND GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 vspike_up_plus vdd reward net4 vspike_up conmutator
V8 vspike_up_plus GND 1.8
x2 phi1 vspike net4 vdd switch
x3 vdd vref phi2b vrefrac GND ota_1_stage
XC1 vspike GND sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=5 m=5
x4 phi2 vspike vrefrac vdd switch
x5 phi_int vspike vref vdd switch
x6 phi1 vrefrac vspike_down vdd switch
x7 phi2 net3 vref vdd switch
x9 vdd phi1 phi2b phi2 xnor
XM1 net5 vdd net3 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net8 vdd net6 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net7 vdd net8 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 vdd net7 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sch
.subckt ota_2_stage vdd vn vout vp vss
*.iopin vdd
*.ipin vp
*.opin vout
*.ipin vn
*.iopin vss
XM1 net1 vn net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=3.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=.3 W=1.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
XM4 net2 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=.3 W=1.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
XM2 net2 vp net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=3.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net4 net3 vss GND sky130_fd_pr__nfet_01v8 L=1.5 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net3 net3 vss GND sky130_fd_pr__nfet_01v8 L=0.15 W=2.7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R1 vdd net3 1k m=1
XM6 vout net2 vdd vdd sky130_fd_pr__pfet_01v8 L=.15 W=23.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
C1 net2 vout .3p m=1
XM7 vout net3 vss GND sky130_fd_pr__nfet_01v8 L=0.15 W=6.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_not/not.sym # of pins=3
** sym_path: /foss/designs/spike_130/designs/subcells/core_not/not.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_not/not.sch
.subckt not vdd in out
*.ipin in
*.opin out
*.iopin vdd
XM10 out in vdd vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out in GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sch
.subckt monostable vdd out trigger in2 in1
*.iopin vdd
*.ipin trigger
*.ipin in1
*.ipin in2
*.opin out
x1 vdd in2 net1 not
x2 vdd net1 out not
x3 vdd in1 net1 trigger nand
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_nor/nor.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_nor/nor.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_nor/nor.sch
.subckt nor vdd A B out
*.ipin A
*.ipin B
*.iopin vdd
*.opin out
XM3 out A GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out B GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 net1 A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out B net1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sch
.subckt xnor vdd A B vout
*.ipin A
*.ipin B
*.iopin vdd
*.opin vout
XM5 net1 A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 vout B net1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 vout B A GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 vout A B GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_nand/nand.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_nand/nand.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_nand/nand.sch
.subckt nand vdd out A B
*.iopin vdd
*.opin out
*.ipin A
*.ipin B
XM11 out A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out B vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 out A net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 B GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
