** sch_path: /foss/designs/spike_130/designs/tb_memristor/tb_rram_v1.sch
**.subckt tb_rram_v1
V3 bl2 GND pulse(1 1.8 0 1n 1n 0.5u 1u 50)
V6 sl2 GND pulse(1 1.8 50u 1n 1n 0.5u 1u)
Vmeas1 a2 sl2 0
.save i(vmeas1)
X1 a2 bl2 rram_cell
**** begin user architecture code
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


*.option savecurrents
.control
 tran 1n 100u uic
 wrdata gap_change.txt n.x1.n1#ngap
 write tb_rramx.raw
.endc
.save all


.subckt rram_cell BE TE
N1 BE TE rram_model
.ends rram_cell

.model rram_model rram gap_initial=0.5
*0.1-1.7

.control
pre_osdi /foss/designs/spike_130/designs/prubs/rram.osdi
.endc

**** end user architecture code
**.ends
.GLOBAL GND
.end
